US08957064B2
methyl-(2-methyl-6-phenyl-7-{4-{3-[5-(pyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidin-5-yl)-amine
237.8 mg (0.87 mmol) 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-pyridine×2HCl are dissolved in 6.8 mL NMP. 0.24 mL (1.74 mmol) triethylamine are added and the reaction mixture is stirred for one hour. 270 mg (0.79 mmol) 4-(2-Methyl-5-methylamino-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde and 0.11 mL (1.89 mmol) acetic acid are added. The reaction mixture is stirred for two days at room temperature. 401.1 mg (1.89 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature for 9 days. After the usual work-up and purification by HPLC 29.6 mg (7.1%) of the desired title compound are obtained.

reactant | 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-pyridine | 0.87 mmol, 237.8 mg | N1CC(C1)C1=NC(=NN1)C1=NC=CC=C1 | C10H11N5
reactant | triethylamine | 1.74 mmol, 0.24 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(2-Methyl-5-methylamino-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde | 0.79 mmol, 270 mg | CC=1N=C2N(C(=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2)NC)C1 | C21H18N4O
reactant | acetic acid | 1.89 mmol, 0.11 mL | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 1.89 mmol, 401.1 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | NMP | 6.8 mL | CN1CCCC1=O | C5H9NO
product | methyl-(2-methyl-6-phenyl-7-{4-{3-[5-(pyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidin-5-yl)-amine | CNC1=C(C(=NC=2N1C=C(N2)C)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC=CC=C2)C2=CC=CC=C2 | C31H29N9
